### PR TITLE
Matching-related equivalences

### PR DESCRIPTION
**Pull request by Engreyight**
Equivalences relating to the matching algorithm.

### CODE REVIEW

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 1]
```diff
@@ -0,0 +1,655 @@
...
+Section MatchingEquivs.
+  Context {Σ : Signature} {syntax : Syntax}.
+
+  Context (Γ : Theory).
+  Hypothesis (HΓ : theory ⊆ Γ).
+
+  (* Proof for Γ ⊢ (θ -> (l = ti)) <-> (l /\ θ = ti /\ θ) *) 
+
+  (* Helper lemma for predicate patterns. *)
+  Lemma predicate_iff φ₁ φ₂ :
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:45]: Please move this to `FOEqualityProofSystem.v`.

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 2]
```diff
@@ -0,0 +1,655 @@
...
+      mlRewrite H3 at 1.
+      mlReflexivity.
+      Unshelve.
+      all: wf_auto2.
+  Admitted.
+
+  (* Proof for Γ ⊢ (∃. (l = ti)) <-> (ti ∈ ∃. l) *) 
+
+  (* Single exists version. *)
+  Goal forall l ti,
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:144]: Give this lemma a name, please.

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 3]
```diff
@@ -0,0 +1,655 @@
...
+      opose proof* (membership_imp_equal Γ ti (l^{evar:0↦x})); auto.
+      now apply mu_free_bevar_subst. wf_auto2.
+      pose proof (MP fpti H1); clear H1.
+      pose proof (MP (fpl x) H2); clear H2.
+      mlSymmetry. now fromMLGoal.
+  Qed.
+
+  (* Definitions for multiple exists version. *)
+
+  Fixpoint functional_when_applied (n : nat) (φ : Pattern) :=
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:177]: Describe these definitions in comments a bit. For example, the result of `many_ex n \phi` is $\exists x_1, \exists x_2, ..., \exists x_n, \varphi$

Comment (berpeti) [reply matching-logic/src/Experimental/MatchingEquivs.v:177]: Additional remarks:
- This function is essentially opening n times, and checking whether the result is functional.
- `many_ex` is essentially quantifying n times.
- Check whether these functions are just instances of Coq's/stdpp's n-times application (such as `PeanoNat.Nat.iter`).
- `functional_when_applied` should be renamed to include opening instead of "apply" (since the pattern is opened and not applied).

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 4]
```diff
@@ -0,0 +1,655 @@
...
+    rewrite (free_evars_many_ex n φ'). ltac2:(fm_solve ()).
+    try_solve_pile.
+    toMLGoal.
+    wf_auto2.
+    mlRewrite H1 at 1.
+    mlRewrite IHn at 1.
+    mlReflexivity.
+  Defined.
+
+  Lemma fwa_drop_one : forall n m l y,
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:245]: This name is misleading, it should include "opening".

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 5]
```diff
@@ -0,0 +1,655 @@
...
+    rewrite evar_open_comm_higher. lia.
+    apply IHn. lia. exact (H0 x).
+  Defined.
+
+  (* In place of inversion for Set. *)
+  Tactic Notation "decide_le" hyp(Hle) :=
+    apply le_lt_eq_dec in Hle as [Hle%Arith_prebase.lt_n_Sm_le | ->].
+
+  (* Multiple exists version. *)
+  Goal forall l ti n m,
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:263]: Give this theorem a name, please.

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 6]
```diff
@@ -0,0 +1,655 @@
...
+      replace (0 + n) with n by reflexivity;
+      decide_le Hmlen.
+      1,3: rewrite ! (evar_open_wfc_aux m n); auto; specialize (IHn m Hmlen l Hwfceal Hwfcmal Hwfpl Hmfl Hfpl).
+      3,4: ospecialize (IHn n _ l^{evar:n↦y} _ _ _ _ _); auto; [now apply mu_free_evar_open | now apply fwa_drop_one |].
+      1,3: apply pf_iff_proj1 in IHn.
+      7,8: apply pf_iff_proj2 in IHn.
+      all: try solve [(eapply extract_wfp + eapply extract_wfq); eauto]; mlApplyMeta IHn in "0"; mlAssumption.
+  Qed.
+
+  (* Proof for Γ ⊢ (⌈l /\ ti⌉) -> (ti ∈ ∃. l) *)
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:328]: These comments would be nice for the previous `Goal`s too.

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 7]
```diff
@@ -0,0 +1,655 @@
...
+      fold (l^{evar:0↦y} ∈ml ti).
+      epose proof membership_imp_equal Γ (l^{evar:0↦y}) ti HΓ mfti ltac:(wf_auto2) ltac:(wf_auto2).
+      pose proof (MP (fpl y) H0). clear H0.
+      pose proof (MP fpti H1). clear H1.
+      now fromMLGoal.
+  Defined.
+
+  (* Definitions for multiple exists version. *)
+
+  Fixpoint fully_apply (n : nat) (p : Pattern) :=
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:353]: Rename it to `many_open` to match `many_ex`. Can this also be phrased with `iter`?

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 8]
```diff
@@ -0,0 +1,655 @@
...
+    induction n; intros; simpl.
+    apply Nat.le_0_r in H. subst. wf_auto2.
+    decide_le H.
+    apply (IHn m); auto.
+    rewrite (evar_open_wfc_aux m n); auto.
+    apply (IHn n); auto.
+  Defined.
+
+  (* Multiple exists version. *)
+  Goal forall n m l ti,
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:375]: Give this lemma a name, please.

File: matching-logic/src/Experimental/MatchingEquivs.v [hunk 9]
```diff
@@ -0,0 +1,655 @@
...
+    2: {
+      rewrite eval_and_simpl.
+      rewrite Hρ.
+      rewrite intersection_empty_r_L.
+      auto.
+    }
+    set_solver.
+  Defined.
+
+  Goal forall (sy : symbols) (a : evar), exists ti s M, forall ρ,
```
Comment (berpeti) [inline matching-logic/src/Experimental/MatchingEquivs.v:593]: Explain this proposition in a comment, and if it is purely unification-specific, move it into `Unification.v`.

**Review by berpeti — CHANGES_REQUESTED** [review]

**Review by berpeti — APPROVED** [review]
